US07176310B1
1. [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 2-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl ester
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 2-(2,5-dimethylpyrrol-1-yl)pyridin-3-ol (32 mg, 0.17 mmol) as the source alcohol. Chromatographic (30–40% ethyl acetate/hexane) purification yielded 22 mg (28%) of the titled compound. ESI-MS t/z 462 (MH+), 460 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 2-(2,5-dimethylpyrrol-1-yl)pyridin-3-ol | 0.17 mmol, 32 mg | CC=1N(C(=CC1)C)C1=NC=CC=C1O | C11H12N2O
product | [5-(4-Fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid 2-(2,5-dimethylpyrrol-1-yl)pyridin-3-yl ester | 22 mg, 28% | CC=1N(C(=CC1)C)C1=NC=CC=C1OC(COC1=NC=C(C=N1)C(NC1=CC=C(C=C1)F)=O)=O | C24H20FN5O4
